US05446042
4,5-Dihydro-3-[1-[2-hydroxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-1,2,4-triazin-6(1H)-one (Compound 56)
1-[(4-Methoxyphenyl)carbonylmethyl]-4-(4,5-dihydro-1,2,4-triazin-6(1H)-one-3-yl)pyridinium bromide (300 mg, 0.74 mmol) was dissolved in methanol (8 ml), gradually added with sodium borohydride (280 mg, 7.4 mmol) under ice cooling and stirred at room temperature overnight. The solvent was removedunder reduced pressure. The residue obtained was added with dichloromethane, washed with water and dried over anhydrous magnesium sulfate. The solvent was removed to obtain the titled compound (165 mg) ascolorless plates.

reactant | 1-[(4-Methoxyphenyl)carbonylmethyl]-4-(4,5-dihydro-1,2,4-triazin-6(1H)-one-3-yl)pyridinium bromide | 0.74 mmol, 300 mg | [Br-].COC1=CC=C(C=C1)C(=O)C[N+]1=CC=C(C=C1)C1=NNC(CN1)=O
reactant | sodium borohydride | 7.4 mmol, 280 mg | [BH4-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 8 ml | CO | CH4O
product | 4,5-Dihydro-3-[1-[2-hydroxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-1,2,4-triazin-6(1H)-one | 165 mg | OC(CN1CC=C(CC1)C1=NNC(CN1)=O)C1=CC=C(C=C1)OC | C17H22N4O3
